US05514654
N-(2-(2-hydroxyethoxy)-ethyl)-4-chloro-benzamide
To a solution of sodium hydroxide (2.2 g, 0.055 moles) in distilled water (100 ml), aminoethoxyethanol (5.25 g, 0.05 moles) was added and the solution was cooled to 0° C. on an ice bath. Under stirring on the ice bath, p-chloro-benzoylchloride (8.75 g, 0.5 moles) was added thereto drop by drop. The stirring was continued for 3 hours at room temperature and the separated precipitate was filtered off by suction. The mother liquid was extracted with chloroform (3×100 ml). The organic phase was separated, dried with sodium sulfate, filtered and evaporated on a rotary evaporator. The precipitated N-O-di-((4-chloro)-benzoyl)-amino-ethoxyethanol was dissolved in dioxan (50 ml) and sodium hydroxide (22 ml of a 1N solution) was added thereto. The solution was stirred for 2 hours at 40° C., water (50 ml) was added thereto and it was extracted with ethyl acetate (5×50 ml). The organic phase was separated, dried with sodium sulfate, filtered and evaporated on a rotary evaporator. The obtained product was crystallized from diethyl ether.

reactant | sodium hydroxide | 0.055 moles, 2.2 g | [OH-].[Na+]
reactant | aminoethoxyethanol | 0.05 moles, 5.25 g | NCCOC(C)O | C4H11NO2
reactant | p-chloro-benzoylchloride | 0.5 moles, 8.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | water | 100 ml | O | H2O
product | N-(2-(2-hydroxyethoxy)-ethyl)-4-chloro-benzamide | OCCOCCNC(C1=CC=C(C=C1)Cl)=O | C11H14ClNO3
